US07700633B2
B. {3-[6-Benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-acetic acid ethyl ester
To a solution of {3-[6-benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-acetic acid (600 mg, 1.2 mmol) in EtOH (50 mL) is added TFA (25 mL) and the mixture is heated at 40° C. for 2 h. EtOH and TFA are removed via vacuum and the residue is purified by HPLC to give the title compound.

reactant | {3-[6-benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-acetic acid | 1.2 mmol, 600 mg | C(C1=CC=CC=C1)OC=1C=C2C=CC(=CC2=CC1N1S(NC(C1)=O)(=O)=O)C=1C=C(C=CC1)CC(=O)O | C27H22N2O6S
reactant | TFA | 25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | EtOH | 50 mL | CCO | C2H6O
product | {3-[6-Benzyloxy-7-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-naphthalen-2-yl]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)C1=CC2=CC(=C(C=C2C=C1)OCC1=CC=CC=C1)N1S(NC(C1)=O)(=O)=O)=O | C29H26N2O6S
